US05026856
A mixture of 35.0 g of 2-benzylisoindoline-4-carboxylic acid, 150 ml of thionyl chloride, and 1 ml of DMF was heated under reflux for 10 hours. After cooling, the reaction mixture was concentrated to the extent that the acid chloride crystals does not deposit. To the concentrate was added dropwise 28% aqueous ammonia under ice cooling and stirring After stirring for 3 hours crystals produced was collected by filtration and washed with water. The crystals were dissolved in chloroform, washed with 5% sodium hydroxide and water, and concentrated. The residue was recrystallized from ether to obtain 24.1 g of 2-benzylisoindoline-4-carboxamide.

reactant | 2-benzylisoindoline-4-carboxylic acid | 35.0 g | C(C1=CC=CC=C1)N1CC=2C=CC=C(C2C1)C(=O)O | C16H15NO2
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-benzylisoindoline-4-carboxamide | 24.1 g | C(C1=CC=CC=C1)N1CC=2C=CC=C(C2C1)C(=O)N | C16H16N2O
